US04820866
1,3-bis-(4-aminophenoxy)-2-methyl-2-propylpropane
300 g 1,3-bis-(4-nitrophenoxy)-2-methyl-2-propylpropane were hydrogenated as in Example 10 in 1500 ml DMF in the presence of 46 g Raney nickel. The crude product was recrystallized from toluene.

reactant | 1,3-bis-(4-nitrophenoxy)-2-methyl-2-propylpropane | 300 g | [N+](=O)([O-])C1=CC=C(OCC(COC2=CC=C(C=C2)[N+](=O)[O-])(CCC)C)C=C1 | C19H22N2O6
solvent | DMF | 1500 ml | CN(C)C=O | C3H7NO
catalyst | Raney nickel | 46 g | [Ni] | Ni
product | 1,3-bis-(4-aminophenoxy)-2-methyl-2-propylpropane | NC1=CC=C(OCC(COC2=CC=C(C=C2)N)(CCC)C)C=C1 | C19H26N2O2
